US04835164
1-Ethyl-α-phenoxymethyl-2-homopiperidine methanol
The free base of the title compound is prepared by reacting α-phenoxymethyl-2-homopiperidinemethanol with acetic anhydride and following the procedure of Example 12.

reactant | α-phenoxymethyl-2-homopiperidinemethanol | O(C1=CC=CC=C1)CC(O)C1NCCCCC1 | C14H21NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Ethyl-α-phenoxymethyl-2-homopiperidine methanol | C(C)N1C(CCCCC1)C(O)COC1=CC=CC=C1 | C16H25NO2
